US04780125
N-[2-(3-cyano-1-propen-1-yl)phenylsulfonyl]N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea.
5.2 g of N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate are added to a solution of 4.45 g of 2-(3-cyano-1-propen-1-yl)phenylsulfonamide and 3.3 ml of 1,5-diazabicyclo[5,4,0]undec-5-ene in 80 ml of dioxan, and the mixture is stirred for 15 hours at 20°-25° C. The reaction mixture is then taken up in 350 ml of water and the aqueous solution is acidified to pH 2 with 2N HCl and extracted with ethyl acetate. The organic extracts are combined and concentrated. The oily orange-coloured residue is dissolved in a very small amount of acetone. About 20 ml of diethyl ether are added to this solution, which is diluted dropwise with hexane until the onset of crystallisation. The mixture is subsequently further cooled and the precipitated crystals are isolated by filtration. Yield: 5.2 g of the title compound with a melting point of 142°-143° C.

reactant | N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate | 5.2 g | COC1=NC(=NC(=N1)C)N(C([O-])=O)C1=CC=CC=C1
reactant | 2-(3-cyano-1-propen-1-yl)phenylsulfonamide | 4.45 g | C(#N)CC=CC1=C(C=CC=C1)S(=O)(=O)N | C10H10N2O2S
reactant | 1,5-diazabicyclo[5,4,0]undec-5-ene | 3.3 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | HCl | 2N | Cl | ClH
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 350 ml | O | H2O
product | N-[2-(3-cyano-1-propen-1-yl)phenylsulfonyl]N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | Yield: 5.2 g | C(#N)CC=CC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C16H16N6O4S
